US06130217
3-(3-Pyridin-3-yl-[1,2,4]oxadiazol-5-yl)phenol
3-[5-(3-Methoxyphenyl)-[1,2,4]oxadiazol-3-yl)pyridine (4.0 g, 15.79 mM) and pyridine hydrochloride (37.6 g, 325 mM) were melted together at about 160° C. under an atmosphere of nitrogen for about 30 hours. This mixture was poured into H2O and stirred. The precipitated product was filtered and dried, 2.9 g, mp. >200° C.

reactant | 3-[5-(3-Methoxyphenyl)-[1,2,4]oxadiazol-3-yl)pyridine | 15.79 mM, 4.0 g | COC=1C=C(C=CC1)C1=NC(=NO1)C=1C=NC=CC1 | C14H11N3O2
reactant | pyridine hydrochloride | 325 mM, 37.6 g | Cl.N1=CC=CC=C1
solvent | H2O | O | H2O
product | 3-(3-Pyridin-3-yl-[1,2,4]oxadiazol-5-yl)phenol | N1=CC(=CC=C1)C1=NOC(=N1)C=1C=C(C=CC1)O | C13H9N3O2
